US09227928B2
Hydroquinone (10 g, 0.09 mol) and 1,2-dichloroethane (30 mL) was taken in a round bottom flask, after cooling the flask to about 10-15° C., sulfuric acid (36 N, 8.9 g) was added dropwise at the same temperature and stirring continued further for about 10-15 min. Temperature was slowly raised to 40° C. then stirred for 3-8 h. The reaction mass was then cooled to 25-35° C. and ethyl acetate (100 mL) added to dissolve the solid formed. A solution of potassium 2-ethylhexanoate (18.2 g, 0.099 mol) in ethyl acetate (100 mL) was added slowly. The reaction was further stirred for an hour. The precipitated crude solid was filtered, washed with ethyl acetate to give 18 g of 2,5-dihydroxybenzenesulfonic acid potassium salt.

reactant | Hydroquinone | 0.09 mol, 10 g | C1(O)=CC=C(O)C=C1 | C6H6O2
reactant | 1,2-dichloroethane | 30 mL | ClCCCl | C2H4Cl2
reactant | sulfuric acid | 36 N, 8.9 g | S(O)(O)(=O)=O | H2O4S
reactant | potassium 2-ethylhexanoate | 0.099 mol, 18.2 g | C(C)C(C(=O)[O-])CCCC.[K+]
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 100 mL | C(C)(=O)OCC | C4H8O2
product | 2,5-dihydroxybenzenesulfonic acid potassium salt | 18 g | [K+].OC1=C(C=C(C=C1)O)S(=O)(=O)[O-] | InChI=1S/C6H6O5S.K/c7-4-1-2-5(8)6(3-4)12(9,10)11;/h1-3,7-8H,(H,9,10,11);/q;+1/p-1
